US05872137
To a solution of 0.33 g of 4-(3,3-dichloro-2-propenyloxy)-2,6-dichlorophenol, 0.23 g of m-phenoxybenzyl alcohol and 0.34 g of triphenylphosphine dissolved in 10 ml of tetrahydrofuran was added dropwise a solution of 0.26 g of diisopropylazodicarboxylate dissolved in 5 ml of tetrahydrofuran, while stirring at room temperature. After stirring at room temperature for 12 hours, the reaction mixture was concentrated, and then mixed with 20 ml of diethyl ether. The precipitate was filtered, and the filtrate was concentrated. The residue was subjected to silica gel chromatography, which afforded 0.31 g of 3,5-dichloro-4-(3-phenoxybenzyl)-1-(3,3-dichloro-2-propenyloxy)-benzene (57% yield), nD25.5 1.6066.

reactant | 4-(3,3-dichloro-2-propenyloxy)-2,6-dichlorophenol | 0.33 g | ClC(=CCOC1=CC(=C(C(=C1)Cl)O)Cl)Cl | C9H6Cl4O2
reactant | m-phenoxybenzyl alcohol | 0.23 g | O(C1=CC=CC=C1)C=1C=C(CO)C=CC1 | C13H12O2
reactant | triphenylphosphine | 0.34 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 0.26 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3,5-dichloro-4-(3-phenoxybenzyl)-1-(3,3-dichloro-2-propenyloxy)-benzene | 0.31 g, 57% yield | ClC=1C=C(C=C(C1CC1=CC(=CC=C1)OC1=CC=CC=C1)Cl)OCC=C(Cl)Cl | C22H16Cl4O2
